US03989841
α-Hydroxy-α-methyl-fluorene-2-acetonitrile
A mixture of 2-acetylfluorene (5.32g.) in ether (20ml.) and water (40ml.) is cooled to 5° and agitated vigorously. Sodium cyanide (2.45g.) is added portionwise and the solution is then treated with conc. HCl (4.8ml.) while maintaining the temperature between 5°-10°. The mixture is then stirred for 2 hr. at room temperature, diluted with water and extracted with ether. The ether extracts are dried (MgSO4) and evaporated to give the titled compound.

reactant | 2-acetylfluorene | 5.32g | C(C)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H12O
reactant | Sodium cyanide | 2.45g | [C-]#N.[Na+]
reactant | HCl | 4.8ml | Cl | ClH
solvent | ether | 20ml | CCOCC | C4H10O
solvent | water | 40ml | O | H2O
product | α-Hydroxy-α-methyl-fluorene-2-acetonitrile | OC(C#N)(C1=CC=2CC3=CC=CC=C3C2C=C1)C | C16H13NO
